US09359286B2
To (7S)-7-(4-bromophenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione (I-1B, 13.9 g, 45.0 mmol) in 1,4-dioxane (40 mL) in a round bottom flask was added aqueous NaOH (2N, 100 mL, 200 mmol). The mixture was heated to 95° C. and stirred for 24 hours. Additional NaOH (25 mL, 50 mmol) was added and heating continued for another two days. The solution was cooled with an ice-bath, neutralized with 5N HCl to approximately pH 7 resulting in the formation of a white precipitate. The solids were collected by filtration and dried under high vacuum for 2 days to provide 14 g of (3S)-1-amino-3-(4-bromophenyl)cyclopentanecarboxylic acid as a white solid which was used as such for the subsequent step without further purification. HPLC retention time=0.64 min (Condition G) LC/MS M+1=284/286.

reactant | (7S)-7-(4-bromophenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione | 45.0 mmol, 13.9 g | BrC1=CC=C(C=C1)[C@@H]1CC2(C(NC(N2)=O)=O)CC1 | C13H13BrN2O2
reactant | NaOH | 200 mmol, 2N, 100 mL | [OH-].[Na+]
reactant | NaOH | 50 mmol, 25 mL | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (3S)-1-amino-3-(4-bromophenyl)cyclopentanecarboxylic acid | 14 g | NC1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)O | C12H14BrNO2
